US07723329B2
Ethyl-methyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine
A solution of toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester (0.080 mg, 0.15 mmol) and methyethylamine (0.45-0.75 mmol) was stirred at 90° C. for about 2 hours in a sealed tube. After cooling to ambient temperature the reaction mixture was solvent evaporated. It was dissolved in ethyl acetate and washed twice with aqueous sodium bicarbonate. The organic phase was dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was dissolved in methanol, and ethereal hydrochloride was added. The mixture was then concentrated and dried for 29 hours at 80° C. in vacuo. Ethyl-methyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine hydrochloride was a tan semi-solid (53.2 mg, 77.1%); Mass Spectrum (+EI, [M+H]+) m/z 424. 1HNMR (500 MHz, DMSO-d6): δ14.14-14.17 (br, 1H), 9.71-9.77 (br, 1H), 8.74-8.76 (m, 1H), 8.52 (dd, 1H, J=7.44 Hz and 1.22 Hz), 8.27 (d, 1H, J=8.30 Hz), 8.03-8.05 (m, 1H), 7.70-7.74 (m, 1H), 7.56-7.64 (m, 3H), 7.29 (d, 1H, J=2.19 Hz), 7.08-7.10 (m, 1H), 4.08-4.11 (m, 2H), 3.04-3.25 (m, 2H), 2.72 (s, 3H), 1.18-1.21 ppm (m, 3H). Elemental Analysis for C23H25N3O3S. 1.00 mol HCl.0.90 mol H2O: Calcd: C, 58.01; H, 5.88; N, 8.82; Found: C, 58.37; H, 5.55; N, 8.50.

reactant | toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester | 0.15 mmol, 0.080 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCCOS(=O)(=O)C1=CC=C(C=C1)C | C27H24N2O6S2
reactant | methyethylamine | 0.45-0.75 mmol | CNCC | C3H9N
reactant | HCl | 1.00 mol | Cl | ClH
reactant | H2O | 0.90 mol | O | H2O
product | Ethyl-methyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine | C(C)N(CCCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)C | C23H25N3O3S
